US04500467
N-[(S)-2,3-Bis-(benzoylthio)-propionyl]-valylproline
N-[(R)-2,3-Bis-(benzoylthio)-propionyl]-valyltryptophan, melting point 205°-208° C. (toluene), Rf=0.60 in system I.

reactant | N-[(R)-2,3-Bis-(benzoylthio)-propionyl]-valyltryptophan | C(C1=CC=CC=C1)(=O)S[C@H](C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O)CSC(C1=CC=CC=C1)=O | C33H33N3O6S2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-[(S)-2,3-Bis-(benzoylthio)-propionyl]-valylproline | C(C1=CC=CC=C1)(=O)S[C@@H](C(=O)N[C@@H](C(C)C)C(=O)N1[C@H](C(=O)O)CCC1)CSC(C1=CC=CC=C1)=O | C27H30N2O6S2
